US08183271B2
Ethyl 8-(4-cyanophenyl)-6-hydroxymethyloctanoate
54.19 ml (54.19 mmol) of a 1 M borane-THF complex solution are added dropwise to a solution of 8.6 g (27.1 mmol) of 2-[2-(4-cyanophenyl)ethyl]heptanedioic acid 7-ethyl ester in 200 ml of THF at −10° C. After warming to 0° C., the mixture is stirred at this temperature for 2 hours. After reaction is complete, saturated sodium bicarbonate solution is added to the reaction mixture, and the solvent is concentrated to dryness. The residue is taken up in dichloromethane, dried over sodium sulfate and again freed of solvent. The resulting crude product is purified by flash chromatography on silica gel (mobile phase: ethyl acetate/cyclohexane 1:10→1:4). 5.1 g (97%, 60% of theory) of a colorless solid are obtained.

reactant | 2-[2-(4-cyanophenyl)ethyl]heptanedioic acid 7-ethyl ester | 27.1 mmol, 8.6 g | C(C)OC(CCCCC(C(=O)O)CCC1=CC=C(C=C1)C#N)=O | C18H23NO4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 200 ml | C1CCOC1 | C4H8O
product | Ethyl 8-(4-cyanophenyl)-6-hydroxymethyloctanoate | C(#N)C1=CC=C(C=C1)CCC(CCCCC(=O)OCC)CO | C18H25NO3
